US05082950
A mixture of triethyl (5-benzoylpyrrol-2-yl)-methanetricarboxylate (2.00 g, 5 mmol), tetra-butylammonium bromide (1.61 g, 5 mmol) and potassium carbonate (19.0 g, 250 mmol) in 1,2-dichloroethane (100 mL) was refluxed for 2 days. The mixture was cooled to room temperature and filtered. The filter cake was washed with methylene chloride. The filtrate and methylene chloride wash solution were combined and concentrated under reduced pressure. The residue was dissolved in diethyl ether, washed with water, dried, and concentrated. The crude product was purified by flash chromatography on flash silica eluting with hexane/ethyl acetate (90:10) to provide 1.42 g (80%) of diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate. The IR and NMR spectral properties were identical to those of the authentic sample.

reactant | triethyl (5-benzoylpyrrol-2-yl)-methanetricarboxylate | 5 mmol, 2.00 g | C(C1=CC=CC=C1)(=O)C1=CC=C(N1)C(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C21H23NO7
reactant | potassium carbonate | 250 mmol, 19.0 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-butylammonium bromide | 5 mmol, 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate | 1.42 g, 80% | C(C1=CC=CC=C1)(=O)C=1N2CCC(C2=CC1)(C(=O)OCC)C(=O)OCC | C20H21NO5
